US09387200B2
a) 2-[Amino-(2-fluoro-phenyl)-methylene]-3-oxo-butyric acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 2-fluoro-benzonitrile and ethyl acetoacetate: MS (m/z) 252.2 (M+1).

reactant | 2-fluoro-benzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
product | 2-[Amino-(2-fluoro-phenyl)-methylene]-3-oxo-butyric acid ethyl ester | C(C)OC(C(C(C)=O)=C(C1=C(C=CC=C1)F)N)=O | C13H14FNO3
